US06987084B2
Step (1) preparation of 2-Methyl-2-[2-(2,6,6-trimethyl-cyclohex-1-enyl)-ethyl]-[1,3]oxazinane (8):
To a 0° C. stirred solution of 4-(2,6,6-trimethyl-cyclohex-1-enyl)-butan-2-one (25.2 g, 0.13 mol) and sodium sulfate (20 g) in 80 mL of methanol is added 3-amino-1-propanol (10 g, 0.13 mol). The reaction is allowed to warm to room temperature. After stirring for 24 h the mixture is cooled to 0° C. and the solids are removed via vacuum filtration through Celite. Evaporation of the solvent gives a clear yellow oil.

reactant | 4-(2,6,6-trimethyl-cyclohex-1-enyl)-butan-2-one | 0.13 mol, 25.2 g | CC1=C(C(CCC1)(C)C)CCC(C)=O | C13H22O
reactant | sodium sulfate | 20 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-amino-1-propanol | 0.13 mol, 10 g | NCCCO | C3H9NO
solvent | methanol | 80 mL | CO | CH4O
product | 2-Methyl-2-[2-(2,6,6-trimethyl-cyclohex-1-enyl)-ethyl]-[1,3]oxazinane | CC1(OCCCN1)CCC1=C(CCCC1(C)C)C | C16H29NO
